US08871796B2
3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]benzonitrile was prepared from 3-(1-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile and 4-fluorobenzaldehyde with a procedure similar to Example 1, Step 3. Calc'd (M+1) 318.1. Found: 318.0

reactant | 3-(1-ethyl-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)benzonitrile | C(C)N1NC(=CC1=O)C=1C=C(C#N)C=CC1 | C12H11N3O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-[1-ethyl-5-(4-formylphenoxy)-1H-pyrazol-3-yl]benzonitrile | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C=O)C=1C=C(C#N)C=CC1 | C19H15N3O2
